US05359098
2-Cyclohexyl-6-[6-(4-hydroxypiperidinyl)hexoxy]-3-methyl-4H-1-benzopyran-4-one hydrochloride
The compound was prepared by a method similar to Example 11 from 2',5'-dihydroxypropiophenone, cyclohexanecarbonyl chloride, 1-bromo-6-chlorohexane, and 4-hydroxypiperidine: mp 109°-110° C.

reactant | 2',5'-dihydroxypropiophenone | OC1=C(C=C(C=C1)O)C(CC)=O | C9H10O3
reactant | cyclohexanecarbonyl chloride | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | 1-bromo-6-chlorohexane | BrCCCCCCCl | C6H12BrCl
reactant | 4-hydroxypiperidine | OC1CCNCC1 | C5H11NO
product | 2-Cyclohexyl-6-[6-(4-hydroxypiperidinyl)hexoxy]-3-methyl-4H-1-benzopyran-4-one hydrochloride | Cl.C1(CCCCC1)C=1OC2=C(C(C1C)=O)C=C(C=C2)OCCCCCCN2CCC(CC2)O | InChI=1S/C27H39NO4.ClH/c1-20-26(30)24-19-23(11-12-25(24)32-27(20)21-9-5-4-6-10-21)31-18-8-3-2-7-15-28-16-13-22(29)14-17-28;/h11-12,19,21-22,29H,2-10,13-18H2,1H3;1H
